US08076478B2
(2) Synthesis of N,N,N′,N′-tetrakis(3-aminopropyl)-1,3-propanediamine
20.05 g of N,N,N′,N′-tetrakis(2-cyanoethyl)-1,3-propanediamine, 2.01 g of Raney Co and 100 mL of 1,4-dioxane were charged in an autoclave and a hydrogenation reaction was carried out at an initial hydrogen pressure of 9.0 MPa at 150° C. for 3 hours. After the catalyst was removed by filtration, the obtained filtrate was concentrated to dryness to give 18.57 g of the title compound as a pale yellow oil.

reactant | N,N,N′,N′-tetrakis(2-cyanoethyl)-1,3-propanediamine | 20.05 g | C(#N)CCN(CCCN(CCC#N)CCC#N)CCC#N | C15H22N6
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | N,N,N′,N′-tetrakis(3-aminopropyl)-1,3-propanediamine | 18.57 g | NCCCN(CCCN(CCCN)CCCN)CCCN | C15H38N6
